US07727988B2
5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E26)
5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and then treated with a solution of 4N HCl in dioxane (500 μl) to give the title compound as a pale yellow solid. (15 mg, 7%)

reactant | 5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | N1=NC(=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C23H22F3N5O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 μl | O1CCOCC1 | C4H8O2
product | 5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.N1=NC(=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C23H22F3N5O2.ClH/c24-23(25,26)16-6-4-15(5-7-16)22-11-17(22)12-30(14-22)9-2-10-31-13-18(20(32)28-21(31)33)19-3-1-8-27-29-19;/h1,3-8,13,17H,2,9-12,14H2,(H,28,32,33);1H/t17-,22+;/m0./s1
